US06525042B1
1-[N-(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-N-methylcarbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In N,N-dimethylformamide (10 ml), 1-[N-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (147 mg) was dissolved. After the addition of 60% oily sodium hydride (22 mg), the resulting mixture was stirred at room temperature for 30 minutes. Methyl iodide (0.023 ml) was added to the reaction mixture and the resulting mixture was stirred at room temperature for 90 minutes. To the residue obtained by concentrating the reaction mixture under reduced pressure, ethyl acetate was added. The resulting mixture was washed with water and saturated saline and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=2:1), whereby the title compound (43 mg) was obtained.

reactant | 1-[N-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 147 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)NC(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H31ClN4O5S2
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | Methyl iodide | 0.023 ml | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[N-(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-N-methylcarbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)N(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl)C | C28H33ClN4O5S2
